US07427612B2
3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-N,N-dimethyl-4-morpholin-4-yl-benzenesulfonamide
The title compound was prepared according to the procedure described for example 1 from 3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-chloro-N,N-dimethyl-benzenesulfonamide and morpholine (60%, light yellow solid, MS (m/e): 519.2 (M+H, 100%)

reactant | 3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-chloro-N,N-dimethyl-benzenesulfonamide | C(C)(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)C=1C=C(C=CC1Cl)S(=O)(=O)N(C)C)F | C21H23ClFN3O4S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-N,N-dimethyl-4-morpholin-4-yl-benzenesulfonamide | C(C)(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)C=1C=C(C=CC1N1CCOCC1)S(=O)(=O)N(C)C)F | C25H31FN4O5S
